* NGSPICE file created from sky130_ef_sc_hd__fill_12.ext - technology: sky130A

.subckt sky130_ef_sc_hd__fill_12 VPWR VGND VNB VPB
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.4524 pd=4.52 as=0.2262 ps=2.26 w=0.87 l=1.97
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.286 pd=3.24 as=0.143 ps=1.62 w=0.55 l=1.97
.ends

